US07741322B2
Step B: (±)-Benzyl-3-(chlorocarbonyl)piperidine-1-carboxylate
To an ice cooled methylene chloride solution of 1-[(Benzyloxy)carbonyl]piperidine-3-carboxylic acid (512 mg, 1.95 mmol) under nitrogen was added oxalyl chloride (0.185 mL, 1.95 mmol) and a few drops N,N-dimethylformamide. The reaction flask was warmed slowly to room temperature and after 2 hours the solvent was removed in vacuo. Toluene was added and removed in vacuo (2×) to give the title compound.

reactant | 1-[(Benzyloxy)carbonyl]piperidine-3-carboxylic acid | 1.95 mmol, 512 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(=O)O | C14H17NO4
reactant | oxalyl chloride | 1.95 mmol, 0.185 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-Benzyl-3-(chlorocarbonyl)piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(=O)Cl | C14H16ClNO3
